2129-07-06 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BP low in am (60s). A line placed and started on levophed. Hct
   checked and low (27->22) so transfused 1 unit. F/U hcts stable
   (28->28->27.5). (Attempted to wean pressor but then would have
   pressures in low 60s so kept on levophed.
   - Hemolysis labs were negative
   - Lactate sent for ?ischemic bowel since hypotensive - was 0.5.
   - Pt feels same today. C/o chronic rectal pain but no abdominal pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-7-5**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-6**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-7-5**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-6**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 85 (64 - 104) bpm
   BP: 100/57(72) {73/43(54) - 136/69(96)} mmHg
   RR: 9 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 69.4 kg
             Total In:
                                                                  5,397 mL
                                                                    179 mL
   PO:
                                                                    200 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  4,847 mL
                                                                    119 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,135 mL
                                                                  1,380 mL
   Urine:
                                                                  3,435 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                 -1,201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/45/138/22/-3
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: RRR, S1-S2 nl, no m/r/g
   Respiratory / Chest: CTA b/l
   Abdominal: Soft, Bowel sounds present, mild epigastric tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, [**2-7**] strenght in
   lower extremities, [**4-7**] in UE
   Labs / Radiology
   243 K/uL
   9.8 g/dL
   92 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.8 mEq/L
   13 mg/dL
   114 mEq/L
   144 mEq/L
   28.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2129-7-5**]  12:40 AM
                             [**2129-7-5**]  12:52 AM
                             [**2129-7-5**]  04:20 AM
                             [**2129-7-5**]  10:00 AM
                             [**2129-7-5**]  12:49 PM
                             [**2129-7-5**]  03:16 PM
                             [**2129-7-5**]  07:37 PM
                             [**2129-7-5**]  07:42 PM
                             [**2129-7-6**]  02:13 AM
   WBC
   10.9
   10.2
   7.0
   7.8
   8.5
   Hct
   29.4
   33
   27.5
   22.0
   28.8
   28.8
   27.5
   28.3
   Plt
   255
   260
   225
   220
   243
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   24
   Glucose
   106
   98
   88
   92
   Other labs: PT / PTT / INR:13.0/26.3/1.1, Alk Phos / T Bili:/0.3,
   Lactic Acid:0.5 mmol/L, Albumin:2.7 g/dL, LDH:133 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 60 year old female with a history of
   secondary progressive MS who come in with complaints of 6 months of
   weakness, admitted to the MICU with concern of GI Bleed.
   .
   # Hypotension: Intermittent symptomatic hypotensive episodes. Likely
   not [**3-7**] GI bleed as evidence of this and Hct stable after transfusion.
   Most likely due to infectious etiology though autonomic dysfunction in
   setting of MS is a possible dx of exclusion.
   - Monitor BP with levophed prn to maintain MAP
   - F/u pending cx
   - CIS
   - Monitor Hct
   - Appreciate GI recs
   - Will call Neuro outpatient attg and possible Neuro c/s regarding
   question of autonomic instability
   # GI Bleed: Per report, had BM in ED that was dark and strongly guaic
   positive.  That with the combination of hypotension concerning for
   significant bleed.  Hct on presentation at 30, with an unknown
   baseline.  Report prior cscope 2 years prior w/o abnormalities.  Had
   negative NG lavage.  Stable Hct overnight suggests this is not etiology
   of ongoing hypotension.
   - F/u GI recs; hold off on EGD for now
   - will follow q12 Hct
   - cont IV PPI [**Hospital1 **], RIJ in place, T&S x 4 units and transfuse for Hct
   <25, NPO for now
   .
   # Transverse colon thickening: Ischemic v. infectious v. inflammatory.
   Pt with mild epigastric tenderness but lactate nl
   - Discuss significance of finding with GI
   - Trend lactate and abdominal exam
   .
   #  Weakness: Does not appear from description of symptoms that her
   presenting complaints related to GI bleed.  Given coplicated neurologic
   history, complaints of muscle wekaness and confusion would seem more
   the consequence of her MS than that of GI bleed with stable hct or
   hypoprofusion from hypotension.  No prominent evidence of other
   contributing etiologies, without signs of infection.  UA negative, no
   fever, no leukocytosis. Tox screen negative
   - TSH low, will check free T4
   - trend hct
   - F/u cx
   - will notify pt's neurologist that she is in house and see if they
   want her seen during hospitalization by neurology service.  Has not
   been seen in 3 years.
   - will hold provigil for now
   .
   # MS: Again, will d/w pt's outpatient neurologist and clarify if they
   feel a consult is needed.
   - cont baclofen
   - cont amitriptilene, copaxone, tizanidine
   - cont keppra, but unclear why pt is on medication, and will need to
   clarify.
   .
   # Renal failure: Now resolved, likely prerenal
   - hold etodolac and lisinopril for now
   .
   # Hypertension: hold lisinopril/hctz given presenting hypotension
   .
   # Hypothyroidism: check T4, cont synthroid for now
   .
   # Constipation: Some degree of autonomic dystregulation in setting of
   MS.  cont bowel regimen
 pt on standing suppository at home.
   .
   # Hyperlipidemia: cont zocor and holding baby aspirin
   ICU Care
   Nutrition: No IVF, replete electrolytes, NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-5**] 02:20 AM
   Arterial Line - [**2129-7-5**] 10:30 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] Son
   [**Name (NI) 156**] status: Full code
   Disposition: C/o to floor if BP stable

2129-07-07 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Noted to have bradycardic episodes to 40s in setting of hypotension
   - GI: EGD not done as Hct stable. Reviewed CT abd/pelvis with Rads;
   thought transverse colon wall thickening more c/w ischemic rather than
   infectious or inflammatory changes.
   - Neuro attg Dr. [**Last Name (STitle) **]: C/o weakness concerning for MS progression.
   Autonomic dysfunction possible but usually positional. Concern for
   infection as T>98 considered fever in MS pts.
   - Given persistence of BP drops, started on midodrine for possible
   autonomic dysfunction as well as given 500cc bolus, NPO diet changed to
   clears. Pt weaned off levophed.
   - Urine cx grew out enterococcus, GP bacteria.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-7-6**] 08:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-7**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-7-6**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-7**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (64 - 97) bpm
   BP: 146/79(103) {77/43(54) - 150/80(106)} mmHg
   RR: 12 (9 - 15) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 69.4 kg
             Total In:
                                                                  1,860 mL
                                                                    685 mL
   PO:
                                                                    210 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,650 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    830 mL
   Urine:
                                                                  3,170 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,310 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: RRR, S1-S2 nl, no m/r/g
   Respiratory / Chest: CTA b/l
   Abdominal: Soft, Bowel sounds present, mild epigastric tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, [**2-7**] strenght in
   lower extremities, [**4-7**] in UE
   Labs / Radiology
   252 K/uL
   10.1 g/dL
   83 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   29.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2129-7-5**]  12:52 AM
                             [**2129-7-5**]  04:20 AM
                             [**2129-7-5**]  10:00 AM
                             [**2129-7-5**]  12:49 PM
                             [**2129-7-5**]  03:16 PM
                             [**2129-7-5**]  07:37 PM
                             [**2129-7-5**]  07:42 PM
                             [**2129-7-6**]  02:13 AM
                             [**2129-7-6**]  09:18 AM
                             [**2129-7-6**]  01:17 PM
   WBC
   10.2
   7.0
   7.8
   8.5
   10.1
   Hct
   33
   27.5
   22.0
   28.8
   28.8
   27.5
   28.3
   29.7
   29.5
   Plt
   [**Telephone/Fax (3) 6822**]43
   252
   Cr
   0.8
   0.7
   0.6
   0.6
   0.7
   TCO2
   24
   Glucose
   106
   98
   88
   92
   83
   Other labs: PT / PTT / INR:12.9/29.1/1.1, Alk Phos / T Bili:/0.3,
   Lactic Acid:0.5 mmol/L, Albumin:2.7 g/dL, LDH:133 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   60 year old female with a history of secondary progressive MS who come
   in with complaints of 6 months of weakness, admitted to the MICU with
   concern of GI Bleed.
   .
   # Hypotension: Intermittent symptomatic hypotensive episodes. Likely
   not [**3-7**] GI bleed as evidence of this and Hct stable after transfusion.
   Most likely due to infectious etiology though autonomic dysfunction in
   setting of MS is a possible dx of exclusion.
   - Monitor BP with levophed prn to maintain MAP
   - F/u pending cx
   - CIS
   - Monitor Hct
   - Appreciate GI recs
   - Will call Neuro outpatient attg and possible Neuro c/s regarding
   question of autonomic instability
   # GI Bleed: Per report, had BM in ED that was dark and strongly guaic
   positive.  That with the combination of hypotension concerning for
   significant bleed.  Hct on presentation at 30, with an unknown
   baseline.  Report prior cscope 2 years prior w/o abnormalities.  Had
   negative NG lavage.  Stable Hct overnight suggests this is not etiology
   of ongoing hypotension.
   - F/u GI recs; hold off on EGD for now
   - will follow q12 Hct
   - cont IV PPI [**Hospital1 **], RIJ in place, T&S x 4 units and transfuse for Hct
   <25, NPO for now
   .
   # Transverse colon thickening: Ischemic v. infectious v. inflammatory.
   Pt with mild epigastric tenderness but lactate nl
   - Discuss significance of finding with GI
   - Trend lactate and abdominal exam
   .
   #  Weakness: Does not appear from description of symptoms that her
   presenting complaints related to GI bleed.  Given coplicated neurologic
   history, complaints of muscle wekaness and confusion would seem more
   the consequence of her MS than that of GI bleed with stable hct or
   hypoprofusion from hypotension.  No prominent evidence of other
   contributing etiologies, without signs of infection.  UA negative, no
   fever, no leukocytosis. Tox screen negative
   - TSH low, will check free T4
   - trend hct
   - F/u cx
   - will notify pt's neurologist that she is in house and see if they
   want her seen during hospitalization by neurology service.  Has not
   been seen in 3 years.
   - will hold provigil for now
   .
   # MS: Again, will d/w pt's outpatient neurologist and clarify if they
   feel a consult is needed.
   - cont baclofen
   - cont amitriptilene, copaxone, tizanidine
   - cont keppra, but unclear why pt is on medication, and will need to
   clarify.
   .
   # Renal failure: Now resolved, likely prerenal
   - hold etodolac and lisinopril for now
   .
   # Hypertension: hold lisinopril/hctz given presenting hypotension
   .
   # Hypothyroidism: check T4, cont synthroid for now
   .
   # Constipation: Some degree of autonomic dystregulation in setting of
   MS.  cont bowel regimen
 pt on standing suppository at home.
   .
   # Hyperlipidemia: cont zocor and holding baby aspirin
   ICU Care
   Nutrition: No IVF, replete electrolytes, NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-5**] 02:20 AM
   Arterial Line - [**2129-7-5**] 10:30 AM
   Prophylaxis:
   DVT: SCD
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **] son and ex-husband
   [**Name (NI) 156**] status: Full code
   Disposition: Call out if BP stable

2129-07-08 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient called back in for hypotension to 70s systolic.
   - Neurology consult called for ? MS contribution to hypotension, or
   autonomic dysfunction.
   - Neurology questioned RCA ischemia.  Stopped midodrine.  Cardiac
   markers were negative.
   - Anion gap improved with IV fluids and allowing her to eat.
   - Urine Cx with Enterococcus [**Last Name (un) 46**] to Ampicillin and strep viridans ->
   transitioned to Ampicillin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-7-7**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-7**] 12:00 PM
   Ampicillin - [**2129-7-8**] 05:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-7-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-8**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 85 (71 - 107) bpm
   BP: 137/74(99) {85/46(59) - 156/83(109)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 69.4 kg
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  2,822 mL
                                                                  1,425 mL
   PO:
                                                                    570 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,252 mL
                                                                  1,375 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    880 mL
   Urine:
                                                                  3,270 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.30/31/81.[**Numeric Identifier **]/22/-9
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: RRR, S1-S2 nl, no m/r/g
   Respiratory / Chest: CTA b/l
   Abdominal: Soft, Bowel sounds present, mild epigastric tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, 1/5 strength in
   lower extremities, [**4-7**] in UE
   Labs / Radiology
   281 K/uL
   9.9 g/dL
   247 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   7 mg/dL
   111 mEq/L
   141 mEq/L
   28.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2129-7-5**]  07:42 PM
                             [**2129-7-6**]  02:13 AM
                             [**2129-7-6**]  09:18 AM
                             [**2129-7-6**]  01:17 PM
                             [**2129-7-7**]  04:14 AM
                             [**2129-7-7**]  09:54 AM
                             [**2129-7-7**]  12:20 PM
                             [**2129-7-7**]  04:29 PM
                             [**2129-7-8**]  01:10 AM
                             [**2129-7-8**]  04:13 AM
   WBC
   8.5
   10.1
   9.2
   7.2
   6.6
   Hct
   28.3
   29.7
   29.5
   30.8
   27.7
   28.2
   Plt
   243
   252
   258
   249
   281
   Cr
   0.6
   0.7
   0.6
   0.6
   0.5
   TropT
   0.01
   <0.01
   <0.01
   TCO2
   24
   16
   Glucose
   92
   83
   61
   247
   Other labs: PT / PTT / INR:12.9/29.1/1.1, CK / CKMB /
   Troponin-T:123/4/<0.01, Alk Phos / T Bili:/0.3, Lactic Acid:0.5 mmol/L,
   Albumin:2.7 g/dL, LDH:133 IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:1.8
   mg/dL
   [**7-4**] Ucx 100,000 Enterococcus, 10,000-100,000 S. viridans.  [**7-4**] Bcx
   NTGD.  [**7-7**] stool cx pending; neg for C. diff.
   Assessment and Plan
   60 year old female with a history of secondary progressive MS who come
   in with complaints of 6 months of weakness, admitted to the MICU with
   concern of GI Bleed.
   .
   # Hypotension: Intermittent symptomatic hypotensive episodes. Likely
   not [**3-7**] GI bleed as evidence of this and Hct stable since transfusion.
   Most likely due to enterococcus UTI; other cx NGTD. [**Month (only) 8**] also have lower
   reserve due to possible underlying autonomic dysfunction in setting of
   MS. [**First Name (Titles) **] [**Last Name (Titles) 6867**] off all home bp meds.
   - Cont ampicillin for total 10-day course (day 5)
   - d/c midodrine
   - F/u pending cx
   - Appreciate GI recs->scope as o/p as stable currently
   - Likely needs o/p neuro appt
   # Anion-gap metabolic acidosis:  Bicarb decreased 22->18 yesterday;
   likely [**3-7**] ketosis from NPO status. Improved with IVF and now resolved;
   pt tolerating po diet. Gap closed.
   - Follow lytes
   # GI Bleed: Per report, had BM in ED that was dark and strongly guaic
   positive.  That with the combination of hypotension concerning for
   significant bleed.  Report prior cscope 2 years prior w/o
   abnormalities.  Had negative NG lavage.  Stable Hct since suggests this
   is not etiology of ongoing hypotension.
   - o/p GI recs
   - Daily Hct
   - Cont po PPI
   .
   # Transverse colon thickening: More c/w ischemic v. infectious or
   inflammatory per GI review of imaging with rads. Pt with mild
   epigastric tenderness but lactate nl. Likely [**3-7**] hypoper [**3-7**]
   hypoperfusion in setting of infection in pt with low reserve. Lactate
   nl.
   - Appreciate GI recs; no need for repeat imaging per GI
   - Trend abdominal exam
   .
   # UTI: Enterococcus+ urine cx, also with <100,000 S. viridans
   - Ampicillin x 10 day course (day 5)
   - D/C foley
   .
   #  Weakness: Does not appear from description of symptoms that her
   presenting complaints related to GI bleed.  Given complicated
   neurologic history, complaints of muscle wekaness and confusion would
   seem more the consequence of her MS than that of GI bleed with stable
   hct or hypoprofusion from hypotension. Likely UTI on top of poor
   neurologic reserve contributed to decreased strength
   - trend hct
   - F/u cx
   - Will need o/p neurologic appt
   - will hold provigil for now
   .
   # Renal failure: Now resolved, likely prerenal
   - hold etodolac and lisinopril for now
   .
   # Hypertension: Start captopril and uptitrate as able.
   .
   # Hypothyroidism: T4 wnl. Cont synthroid
   .
   # Constipation: Some degree of autonomic dysregulation in setting of
   MS.  Cont bowel regimen
 pt on standing suppository at home.
   .
   # Hyperlipidemia: Cont zocor and baby aspirin
   ICU Care
   Nutrition: advance diet as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-5**] 02:20 AM
   Arterial Line - [**2129-7-5**] 10:30 AM
   Prophylaxis:
   DVT: Pneumoboots; add heparin sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call-out if BP remain stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   60 yo woman with h/o advanced MS, h/o shingles affecting right side of
   face 6 weeks ago, presented to ED with recent confusion, increase in
   weakness and fatigue and was found to have hypotension and dark guaiac
   + stool.
   Events:
   hypotensive yest evening, now [**Year (4 digits) 6867**]. Off pressors since [**42**]:30
   last night.
    T 99.7- 97.9, 170/95 93 97% on  RA
   2.8/3.3L 24h I/O
   Exam: lucid, interactive, oriented x 3. Appears comfortable. CTA, RRR
   distant HS. Abd NABS soft and nontender. No edema, rashes.
   Labs:
   Hct stable, wbc nl
   Bicarb dropped 22 with no gap
   Urine: enteroccocus and strep viridans
   A/P:
   60 yo woman with advanced MS, chronic weakness, admitted with
   hypotension and GIB. No bleeding and hct stable.
   1.       Hypotension: DDx: autonomic dysfunction, infection, GIB,
   ischemic bowel. Most likely explanation is infection in the setting of
   neurologic dysfunction causing hypotension leading to low flow in SMV
   vascular supply.
          Ampicillin, change to PO
          Hypotension resolved, restart outpatient antihypertensives
   2.       GI bleed resolved. Hct stable 28-30% since [**7-5**]. Outpatient GI
   f/u for EGD.
   3.       AG acidosis, probably ketoacidosis, resolved.
   4.       Abdominal discomfort improved after BM- attribute to
   colonoscopy.
   remove CVC, foley, regular diet, ppi, heparin [**Hospital **]
   transfer to med floor
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2129-7-8**] 16:45 ------